US08058441B2
1-Acetyl-6-(tert-butylacetyl)oxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with tert-butylacetyl chloride (9.0 μl) and N,N-diisopropylethylamine (28 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)O)(C)C1=CC=CC=C1)(C)C | C20H23NO2
reactant | tert-butylacetyl chloride | 9.0 μl | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | N,N-diisopropylethylamine | 28 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(tert-butylacetyl)oxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)OC(CC(C)(C)C)=O)(C)C1=CC=CC=C1)(C)C | C26H33NO3
